US08378095B2
To a mixture of 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.060 g, 0.20 mmol), 4-hydroxyphenylboronic acid (0.055 g, 0.40 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride (0.008 g, 0.01 mmol) in MeCN (4 ml) was added 1M aqueous Na2CO3 (0.4 ml, 0.4 mmol). The reaction was heated via microwave irradiation to 150° C. and held at this temperature for 15 minutes. The reaction was then diluted with EtOAc and washed with 2M HCl. The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel flash chromatography using 5-70% EtOAc in hexane as eluant to furnish 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide (0.050 g, 0.16 mmol, 80%) as an off white powder. LCMS (1) 1.73 min; m/z (ES−) 315.

reactant | 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.20 mmol, 0.060 g | BrC1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C10H5BrF2N2O2
reactant | 4-hydroxyphenylboronic acid | 0.40 mmol, 0.055 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 0.4 mmol, 1M, 0.4 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeCN | 4 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride | 0.01 mmol, 0.008 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide | 0.16 mmol, 0.050 g, 80% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)O | C16H10F2N2O3
